US07763634B2
Step A: 2-(2-chlorophenyl)-9-(1-methyl-1H-pyrazol-4-yl)-3,6-dihydro-7H-benzo[h]imidazo[4,5-f]isoquinolin-7-one
9-Bromo-2-(2-chlorophenyl)-3,6-dihydro-7H-benzo[h]imidazo[4,5-f]isoquinolin-7-one (30 mg, 0.071 mmol), lithium chloride (6 mg, 0.14 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (30 mg, 0.14 mmol), and tetrakis(triphenylphosphine)palladium(0) (8 mg, 0.0071 mmol) were placed in a microwave tube. Na2CO3 (2 M, 0.25 mL) and DMF (1 mL) were added and the solution was heated in the microwave at 130° C. for ten minutes. The solution was cooled to ambient temperature diluted with ethyl acetate and Na2CO3 (2 M). The organic layer was separated, washed with brine, dried over MgSO4, filtered and concentrated to dryness. The crude residue was purified on silica gel to afford the title compound. 1H NMR (500 MHz, DMSO-d6, δH) 11.56 (bs, 1 H), 10.49 (bs, 1 H), 8.56-8.45 (m, 1 H), 8.18 (s, 1 H), 7.90-7.87 (m, 3 H), 7.69 (d, 1 H, J=7.2 Hz), 7.58-7.54 (m, 3H), 7.34-7.28 (m, 1 H): [M+1]+ 426.1.

reactant | 9-Bromo-2-(2-chlorophenyl)-3,6-dihydro-7H-benzo[h]imidazo[4,5-f]isoquinolin-7-one | 0.071 mmol, 30 mg | BrC1=CC=2C(=C3C(=C4C=CNC(C24)=O)NC(=N3)C3=C(C=CC=C3)Cl)C=C1 | C20H11BrClN3O
reactant | lithium chloride | 0.14 mmol, 6 mg | [Cl-].[Li+]
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.14 mmol, 30 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Na2CO3 | 2 M | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0071 mmol, 8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Na2CO3 | 2 M, 0.25 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 2-(2-chlorophenyl)-9-(1-methyl-1H-pyrazol-4-yl)-3,6-dihydro-7H-benzo[h]imidazo[4,5-f]isoquinolin-7-one | ClC1=C(C=CC=C1)C1=NC=2C(=C3C=CNC(C3=C3C2C=CC(=C3)C=3C=NN(C3)C)=O)N1 | C24H16ClN5O
